US07842810B2
N-(3,5-Difluoro-phenyl)-2-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-acetamide
To a solution of 2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine (30 mg, 0.1 mmol) in DMF (1 mL) were added K2CO3 (40 mg, 0.3 mmol) and 2-chloro-N-(3,5-difluoro-phenyl)-acetamide (20 mg, 0.1 mmol), and the mixture was stirred for 15 h. A catalytic amount of NaI was added and the mixture heated at 50° C. for 15 h. The mixture was diluted with EtOAc (25 mL), washed with brine (4×10 mL), dried (MgSO4) and concentrated. The resulting residue was purified on SiO2 (0-5% CH3OH/CH2Cl2) to provide 30 mg (64%) of the title compound as a pale yellow solid. MS (ESI): exact mass calculated for C24H22F2N6O2, 464.18; m/z found, 465.3 [M+H]+. 1H NMR (500 MHz, CDCl3): 9.30 (br s, 1H), 9.08 (s, 1H), 8.76 (d, J=9.2, 1H), 8.24 (d, J=5.9, 1H), 8.19 (d, J=5.1, 1H), 7.15 (d, J=9.1, 1H), 6.93-6.87 (m, 2H), 6.26 (tt, J=8.9, 2.3, 1H), 3.89 (s, 3H), 3.59 (d, J=17.7, 1H), 3.36 (d, J=17.7, 1H), 3.26-3.23 (m, 1H), 3.08-3.02 (m, 1H), 2.93-2.85 (m, 2H), 2.62 (dd, J=15.7, 5.7, 1H), 2.12-2.08 (m, 1H), 2.00-1.96 (m, 1H).

reactant | 2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine | 0.1 mmol, 30 mg | COC=1N=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)N | C16H17N5O
reactant | K2CO3 | 0.3 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-(3,5-difluoro-phenyl)-acetamide | 0.1 mmol, 20 mg | ClCC(=O)NC1=CC(=CC(=C1)F)F | C8H6ClF2NO
reactant | NaI | [Na+].[I-]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | N-(3,5-Difluoro-phenyl)-2-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-acetamide | 30 mg, 64% | FC=1C=C(C=C(C1)F)NC(CNC1CC2=CN(N=C2CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C24H22F2N6O2
